US04472425
EXAMPLE 16: Methyl 2-(2,4-dimethylthien-3-yl)-hydrazinecarboxylate
To a mixture of 35.5 g (0.25 mol) 2,4-dimethylthien-3-yl-hydrazine, 27.6 g (0.35 mol) pyridine and 83 ml water are added within 15 minutes at room temperature 23.6 g (0.25 mol) methyl chloroformiate. 83 ml water are further added, and the mixture is stirred for 3 hours at room temperature. After the addition of 300 ml diethylether, the mixture is acidified with 2 N HCl, the organic phase separated, washed with water, dried and concentrated.

reactant | 2,4-dimethylthien-3-yl-hydrazine | 0.25 mol, 35.5 g | CC=1SC=C(C1NN)C | C6H10N2S
reactant | pyridine | 0.35 mol, 27.6 g | N1=CC=CC=C1 | C5H5N
reactant | water | 83 ml | O | H2O
reactant | water | 83 ml | O | H2O
reactant | HCl | 2 N | Cl | ClH
reactant | diethylether | 300 ml | C(C)OCC | C4H10O
product | Methyl 2-(2,4-dimethylthien-3-yl)-hydrazinecarboxylate | CC=1SC=C(C1NNC(=O)OC)C | C8H12N2O2S
